US06562849B1
N-(4-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)methanesulfonamide (exemplification compound number 1-316)
A mixture of 5-[4-[6-(4-aminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (400 mg), methanesulfonyl chloride (88 mg), triethylamine (234 mg) and anhydrous N,N-dimethylformamide (8 ml) was stirred at room temperature for 3.5 hours. The reaction mixture was concentrated and partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated. The residue was chromatographed on a silica gel column using ethyl acetate:n-hexane=3:1→4:1→1:0 as the eluant and the product was recrystallized from ethyl acetate to afford the title compound (159 mg, mp 224.8-226.5° C.).

reactant | 5-[4-[6-(4-aminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 400 mg | Cl.Cl.NC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1
reactant | methanesulfonyl chloride | 88 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 234 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | N-(4-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)methanesulfonamide | 159 mg | O=C1SC(C(N1)=O)CC1=CC=C(OCC2=NC3=C(N2C)C=C(C=C3)OC3=CC=C(C=C3)NS(=O)(=O)C)C=C1 | C26H24N4O6S2
